US04979978
Preparation of (2-Hydroxyphenyl)-(2-hydroxy-3-methoxyphenyl)methane
(2-Methoxymethoxyphenyl)(2-hydroxy-3-methoxyphenyl)methane (3.95 g, 14 mmol) was dissolved in 150 ml of methanol containing 0.026 g of p-toluene sulfonic acid and the mixture was heated at reflux overnight. The volatiles were then removed by evaporation under reduced pressure and the solid that remained was taken up in ether. The ethereal solution was extracted with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The white solid residue was dried to obtain 3.66 g (99 percent of theory) of the title compound. The proton nmr spectrum was consistent with the assigned structure.

reactant | (2-Methoxymethoxyphenyl)(2-hydroxy-3-methoxyphenyl)methane | 14 mmol, 3.95 g | COCOC1=C(C=CC=C1)CC1=C(C(=CC=C1)OC)O | C16H18O4
solvent | methanol | 150 ml, 0.026 g | CO | CH4O
solvent | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (2-Hydroxyphenyl)-(2-hydroxy-3-methoxyphenyl)methane | OC1=C(C=CC=C1)CC1=C(C(=CC=C1)OC)O | C14H14O3
